US08476297B2
Step 6: N-Isopropyl-4,4-dimethyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydro-isoquinoline-2(1H)-carboxamide
A 25-mL round-bottomed flask was charged with 4,4-dimethyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (366 mg, 1.2 mmol), iso-propyl isocyanate (141 μL, 1.4 mmol), DCE (5 mL) and stirred at RT for 1 h. Then the solvent was removed under vacuum and the product was purified by recrystallization from a mixture of ether/hexane. MS (ESI, positive ion) m/z: 391 (M+H).

reactant | 4,4-dimethyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 1.2 mmol, 366 mg | CC1(CNC(C2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F)C | C18H18F3N
reactant | iso-propyl isocyanate | 1.4 mmol, 141 μL | C(C)(C)N=C=O | C4H7NO
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | N-Isopropyl-4,4-dimethyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydro-isoquinoline-2(1H)-carboxamide | C(C)(C)NC(=O)N1C(C2=CC=CC=C2C(C1)(C)C)C1=CC=C(C=C1)C(F)(F)F | C22H25F3N2O
